US07816542B2
A hot (140° C.) mixture of 4-formyl-benzoic acid methyl ester (21.0 mg, 0.129 mmol) and NaHSO3 (20.1 mg, 0.193 mmol, 1.5 eq.) in DMA (250 μL) is treated with the dropwise addition of 4′-butyl-biphenyl-3,4-diamine (31 mg, 0.129 mmol) in DMA (100 μL) over 10 minutes. The resulting mixture is stirred for 1 hour at 140° C. and is then treated with H2O (1 ml) and stirred an additional hour. The reaction is diluted with EtOAc and the phases separated. The organic phase is dried over MgSO4, filtered, and concentrated. The crude benzimidazole product is diluted with 95% Ethanol (0.5 ml) and THF (1 ml) and transferred into a Smith-Process Vial containing LiOH (15.4 mg, 0.645 mmol, 5 eq.). The reaction vessel is heated to 165° C. under microwave irradiation for 5 minutes. After concentration, the crude product is purified by preparative RP LC-MS to give 4-[6-(4-butyl-phenyl)-1H-benzoimidazol-2-yl]-benzoic acid: 1H NMR (400 MHz, CD3OD) δ 9.00 (d, J=8.2 Hz, 1H), 8.91 (d, J=8.1 Hz, 1H), 8.63 (s, 1H), 8.53 (s, 1H), 8.31 (d, J=7.6 Hz, 2H), 8.23 (d, J=8.3 Hz, 1H), 8.02 (d, J=7.7 Hz, 1H), 7.94 (s, 1H), 7.84 (s, 1H), 7.62 (d, J=7.7 Hz, 1H), 7.33 (d, J=7.6 Hz, 1H), 3.38 (dd, J=7.8, 7.7 Hz, 1H), 2.69 (dd, J=7.8, 7.6 Hz, 1H), 2.35 (m, 1H), 2.09 (m, 1H), 1.66 (dd, J=7.4, 7.3 Hz, 3H), 1.41 (m, 1H), 0.97 (dd, J=7.3, 6.9 Hz, 2H); ESMS m/z 371.2 (M+H+).

reactant | 4-formyl-benzoic acid methyl ester | 0.129 mmol, 21.0 mg | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | NaHSO3 | 0.193 mmol, 20.1 mg, 1.5 eq. | OS(=O)[O-].[Na+]
reactant | 4′-butyl-biphenyl-3,4-diamine | 0.129 mmol, 31 mg | C(CCC)C1=CC=C(C=C1)C1=CC(=C(C=C1)N)N | C16H20N2
reactant | LiOH | 0.645 mmol, 15.4 mg, 5 eq. | [Li+].[OH-]
solvent | DMA | 250 μL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 100 μL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 1 ml | O | H2O
product | 4-[6-(4-butyl-phenyl)-1H-benzoimidazol-2-yl]-benzoic acid | C(CCC)C1=CC=C(C=C1)C=1C=CC2=C(NC(=N2)C2=CC=C(C(=O)O)C=C2)C1 | C24H22N2O2
